US08207177B2
Step b: 3,3-Dimethylindan-1-amine
3,3-Dimethylindan-1-one oxime (1.22 g, 6.96 mmol) was dissolved in MeOH (20.0 mL) and palladium (10 weight percent on carbon, 50% water wet, 148 mg) was added. The reaction was placed under an atmosphere of hydrogen and was stirred overnight. The mixture was then filtered through Celite, washed through with MeOH and the filtrates concentrated in vacuo to afford the product as a grey oil (1.12 g, 100%). LC/MS: Rt=1.04 min, ES+ 162 (AA standard).

reactant | 3,3-Dimethylindan-1-one oxime | 6.96 mmol, 1.22 g | CC1(CC(C2=CC=CC=C12)=NO)C | C11H13NO
solvent | MeOH | 20.0 mL | CO | CH4O
catalyst | palladium | 148 mg | [Pd] | Pd
product | 3,3-Dimethylindan-1-amine | 1.12 g, 100% | CC1(CC(C2=CC=CC=C12)N)C | C11H15N
